US07176225B2
(6aR,7aS,8S,11aS)-5,8-bis(dimethylamino)-9,11a,12-trihydroxy-11,13-dioxo-2-[(propylamino)methyl]-6,6a,7,7a,8,11,11a,13-octahydrotetraceno[2,1-d][1,3]oxazole-10-carboxamide
9-aminominocycline sulfate salt (1.0 g, 1.50 mmol) is dissolved in DMF (50 mL) and treated with a solution of 2-chloro-1,1,1-trimethoxyethane (0.463 g, 3.00 mmol, 2 equivalents). The reaction is stirred at room temperature until mass spectrometry shows conversion to the chloromethylbenzoxazole derivative. The solution is then treated with n-propylamine (10 mL, excess) and stirred until mass spectrometry shows conversion to the n-propylaminomethyl benzoxazole. The mixture is concentrated under reduced pressure to remove excess n-propylamine, and then poured slowly into ether (1 L) and HCl/ether is added to precipate the salt. The solid is rinsed with fresh ether and dried under vacuum. The crude solid is dissolved in water (100 mL) giving a solution at pH 2. The pH is raised successively by 0.5 units with aqueous ammonia, and extracted with dichloromethane. The fractions extracted at pH 4–4.5 are combined, dried (Na2SO4), filtered and concentrated nearly to dryness. A small volume of methanol is added and the solution is treated with 1M HCl in ether. The precipitated solid is collected by filtration, washed with fresh ether and dried under vacuum to yield 0.067 g of the product as its HCl salt.

reactant | 9-aminominocycline sulfate | 1.50 mmol, 1.0 g | CN(C)[C@H]1[C@@H]2C[C@@H]3CC4=C(C(=C(C=C4N(C)C)N)O)C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O | C23H28N4O7
reactant | 2-chloro-1,1,1-trimethoxyethane | 3.00 mmol, 0.463 g, 2 equivalents | ClCC(OC)(OC)OC | C5H11ClO3
reactant | chloromethylbenzoxazole | ClCC=1OC2=C(N1)C=CC=C2 | C8H6ClNO
reactant | n-propylamine | 10 mL | C(CC)N | C3H9N
reactant | n-propylaminomethyl benzoxazole | C(CC)NCC=1OC2=C(N1)C=CC=C2 | C11H14N2O
reactant | ammonia | N | H3N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (6aR,7aS,8S,11aS)-5,8-bis(dimethylamino)-9,11a,12-trihydroxy-11,13-dioxo-2-[(propylamino)methyl]-6,6a,7,7a,8,11,11a,13-octahydrotetraceno[2,1-d][1,3]oxazole-10-carboxamide | 0.067 g | CN(C1=CC=2N=C(OC2C=2C(C3=C([C@@]4(C(C(=C([C@H]([C@@H]4C[C@@H]3CC12)N(C)C)O)C(=O)N)=O)O)O)=O)CNCCC)C | C28H35N5O7
